US08431563B2
Osmium tetroxide (2.4 mL, 4 wt % solution in water, 0.40 mmol) was added to a stirring solution of 1-(2-thiophenylsulfonyl)-4-(4-(1-(trifluoromethyl)ethenyl)phenyl)piperazine (0.16 g, 0.40 mmol) and pyridine (4.0 mL) at room temperature. After 40 min, water (4.0 mL) and Na2SO3 (1.5 g, 12 mmol) were added sequentially, the mixture was partitioned between water (10 mL) and chloroform (25 mL). The layers were separated and the aqueous material was washed with chloroform (2×10 mL). The combined organic material was dried (Na2SO4) and purified via column chromatography (10 g of silica, 1% MeOH in CH2Cl2). The purified residue was partitioned between water (20 mL) and tert-butanol (20 mL). To this was added sodium sulfite (2.0 g), potassium carbonate (2.0 g), and methanesulfonamide (0.20 g) at room temperature. After 6 h, the reaction mixture was partitioned between EtOAc (50 mL) and saturated aqueous sodium bicarbonate (25 mL) and the layers were separated. The organic material was washed sequentially with saturated aqueous sodium bicarbonate (20 mL) and brine (20 mL), dried (MgSO4), and purified via column chromatography on silica gel (10 g of silica, 1% MeOH in CH2Cl2) to yield 3,3,3-trifluoro-2-(4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,2-propanediol as a mixture of enantiomers (0.088 g).

reactant | 1-(2-thiophenylsulfonyl)-4-(4-(1-(trifluoromethyl)ethenyl)phenyl)piperazine | 0.40 mmol, 0.16 g | S1C(=CC=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=C)C(F)(F)F | C17H17F3N2O2S2
reactant | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | Na2SO3 | 12 mmol, 1.5 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 4.0 mL | O | H2O
catalyst | Osmium tetroxide | 0.40 mmol, 2.4 mL | [Os](=O)(=O)(=O)=O
product | 3,3,3-trifluoro-2-(4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,2-propanediol | FC(C(CO)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)(F)F | C17H19F3N2O4S2
